US05034411
4-[4-[(2-hydroxyethyl)[3-(propylthio)propyl]amino]butyl]benzonitrile
5.0 g of 4-[4-[(2-hydroxyethyl)amino]butyl]benzonitrile and 4.9 g of 1-bromo-3-(propylthio)propane were dissolved in 50 ml of isopropanol. 6.3 g of potassium-carbonate was added and the mixture was refluxed over night and thereafter filtrated and evaporated. The oily residue was purified by column chromotography. Yield: 4.3 g of the title compound.

reactant | 4-[4-[(2-hydroxyethyl)amino]butyl]benzonitrile | 5.0 g | OCCNCCCCC1=CC=C(C#N)C=C1 | C13H18N2O
reactant | 1-bromo-3-(propylthio)propane | 4.9 g | BrCCCSCCC | C6H13BrS
reactant | potassium-carbonate | 6.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 4-[4-[(2-hydroxyethyl)[3-(propylthio)propyl]amino]butyl]benzonitrile | OCCN(CCCCC1=CC=C(C#N)C=C1)CCCSCCC | C19H30N2OS
